US06743794B2
[3-(3-Acetyl-4-amino-5-chloro-2-oxo-2H-quinolin-1-yl)-cyclohexylmethyl]-carbamic Acid Benzyl Ester
A solution of [3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylmethyl]-carbamic acid benzyl ester (0.5 g, 1.04 mmol) and Mo(CO)6 (3.0 g, 0.01 mmol) in Acetonitrile (50 mL) and water (5 mL) was heated to 60° C. and stirred overnight. The reaction was concentrated to a solid, diluted in CH2Cl2 and filtered through Celite to remove the black insoluble material. The filtrate was concentrated to a solid and purified using silica gel column chromatography. The product was eluted with 10% EtOAc in CH2Cl2. The solvent was removed to afford 0.520 g (quantitative) of product as a light brown oil. MS (ES+) m/z 482.0 (M+H)+,(ES−) m/z 479.9 (M−H)−, 540.0 (M+CH3COO−)−.

reactant | [3-(9-Chloro-3-methyl-4-oxo-5H-isoxazolo[4,3-c]quinolin-5-yl)-cyclohexylmethyl]-carbamic acid benzyl ester | 1.04 mmol, 0.5 g | C(C1=CC=CC=C1)OC(NCC1CC(CCC1)N1C(C=2C(C=3C(=CC=CC13)Cl)=NOC2C)=O)=O | C26H26ClN3O4
solvent | Acetonitrile | 50 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
product | [3-(3-Acetyl-4-amino-5-chloro-2-oxo-2H-quinolin-1-yl)-cyclohexylmethyl]-carbamic Acid Benzyl Ester | C(C1=CC=CC=C1)OC(NCC1CC(CCC1)N1C(C(=C(C2=C(C=CC=C12)Cl)N)C(C)=O)=O)=O | C26H28ClN3O4
